US06699910B2
2,12-Bis-(4-isobutyl-phenyl)-2,12-dimethyl-7-oxo-tridecanedioic acid diethyl ester (3.0 g, 4.95 mmol) was dissolved in ethanol (40 mL) and water (10 mL) with potassium hydroxide (4.4 g 85%). The solution was heated to reflux for six hours, cooled and concentrated. After the ethanol was removed, water (200 mL) was added and the solution was extracted with diethyl ether (100 mL). The aqueous fraction was acidified with concentrated hydrochloric acid (10 mL, to pH=1). The product was then extracted with diethyl ether (2×100 mL). The ether fractions were combined and dried with sodium sulfate (5 g). After filtration, concentration and drying under high vacuum, the reaction yielded 2,12-bis-(4-isobutyl-phenyl)-2,12-dimethyl-7-oxo-tridecanedioic acid (2.35 g, 82% yield) as a light yellow foam. 1H NMR (300 MHz, CDCl3/TMS): δ (ppm) 10.02 (bs, 2H), 7.24 (d, 4H, J=8.0 Hz), 7.09 (d, 4H, J=8.0 Hz), 2.43 (d, 4H, J=7.0 Hz), 2.33 (t, 4H, J=7.3 Hz), 2.05-1.88 (m, 2H), 1.96-1.77 (m, 4H), 1.55-1.42 (m, 10H), 1.22-1.08 (m, 4H), 0.88 (d, 12H, J=6.6). 13C NMR (75 MHz, CDCl3/TMS): δ (ppm): 211.48, 182.94, 140.43, 140.24, 129.27, 125.94, 49.71, 45.06, 42.58, 42.58, 38.91, 30.25, 24.45, 24.24, 22.58, 22.40. HRMS (LSIMS, nba): Calcd. for C35H50O5Na (MNa+): 573.3555, found: 573.3459.

reactant | 2,12-Bis-(4-isobutyl-phenyl)-2,12-dimethyl-7-oxo-tridecanedioic acid diethyl ester | 4.95 mmol, 3.0 g | C(C)OC(C(CCCCC(CCCCC(C(=O)OCC)(C)C1=CC=C(C=C1)CC(C)C)=O)(C)C1=CC=C(C=C1)CC(C)C)=O | C39H58O5
reactant | water | 10 mL | O | H2O
reactant | potassium hydroxide | 4.4 g | [OH-].[K+]
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | 2,12-bis-(4-isobutyl-phenyl)-2,12-dimethyl-7-oxo-tridecanedioic acid | 2.35 g, 82% yield | C(C(C)C)C1=CC=C(C=C1)C(C(=O)O)(CCCCC(CCCCC(C(=O)O)(C)C1=CC=C(C=C1)CC(C)C)=O)C | C35H50O5
